US06468995B1
Diphenylmethyl 7β-amino-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylate (810 mg) was dissolved in formic acid (3.2 ml) below 5° C. and herein concentrated hydrochloric acid (0.71 ml) was added thereto at the same temperature. After the reaction mixture was stirred at the room temperature for an hour, it was poured into a mixture of ethyl acetate (50 ml) and acetone (25 ml), resulting precipitate was collected by filtration, and dried under reduced pressure. The precipitate was suspended in a mixture of water (6.0 ml) and acetone (2.5 ml). After the suspension was dissolved at pH 7.0 with saturated sodium bicarbonate solution, and adjusted to pH 4.5 with 1N-hydrochloric acid. The mixture was stirred at the room temperature for 30 minutes, and then resulting precipitate was collected, washed with acetone (5.0 ml), and dried under reduced pressure to give 7β-amino-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylic acid (0.36 g) was obtained.

reactant | Diphenylmethyl 7β-amino-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylate | 810 mg | N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NNC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C24H22N4O3S2
reactant | hydrochloric acid | 0.71 ml | Cl | ClH
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | acetone | 25 ml | CC(=O)C | C3H6O
solvent | formic acid | 3.2 ml | C(=O)O | CH2O2
product | 7β-amino-3-[(pyrazol-4-yl)methylthio]-3-cephem-4-carboxylic acid | 0.36 g | N[C@H]1[C@@H]2N(C(=C(CS2)SCC=2C=NNC2)C(=O)O)C1=O | C11H12N4O3S2
